************************************************************************
* auCdl Netlist:
* 
* Library Name:  REF_GEN
* Top Cell Name: mux8_1_fL
* View Name:     schematic
* Netlisted on:  Jun 15 12:44:15 2026
************************************************************************

.INCLUDE  /opt/pdk/lf11/PDK_LF11ISi_V1_3_2/tools/setup/subckt.cdl
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: REF_GEN
* Cell Name:    mux8_1_fL
* View Name:    schematic
************************************************************************

.SUBCKT mux8_1_fL A0 A1 A2 A3 A4 A5 A6 A7 COM GNDA IN0 IN1 IN2 IN3 IN4 IN5 IN6 
+ IN7
*.PININFO A0:B A1:B A2:B A3:B A4:B A5:B A6:B A7:B COM:B GNDA:B IN0:B IN1:B 
*.PININFO IN2:B IN3:B IN4:B IN5:B IN6:B IN7:B
MM6 IN5 A5 COM GNDA nmos1v2hvt W=10u L=1u m=1 nf=1
MM5 IN4 A4 COM GNDA nmos1v2hvt W=10u L=1u m=1 nf=1
MM4 IN7 A7 COM GNDA nmos1v2hvt W=10u L=1u m=1 nf=1
MM3 IN6 A6 COM GNDA nmos1v2hvt W=10u L=1u m=1 nf=1
MM2 IN1 A1 COM GNDA nmos1v2hvt W=10u L=1u m=1 nf=1
MM1 IN0 A0 COM GNDA nmos1v2hvt W=10u L=1u m=1 nf=1
MM0 IN3 A3 COM GNDA nmos1v2hvt W=10u L=1u m=1 nf=1
MM7 IN2 A2 COM GNDA nmos1v2hvt W=10u L=1u m=1 nf=1
.ENDS

