************************************************************************
* auCdl Netlist:
* 
* Library Name:  REF_GEN
* Top Cell Name: mux8_1p_fL
* View Name:     schematic
* Netlisted on:  Jun 25 14:27:34 2026
************************************************************************

.INCLUDE  /opt/pdk/lf11/PDK_LF11ISi_V1_3_2/tools/setup/subckt.cdl
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: REF_GEN
* Cell Name:    mux8_1p_fL
* View Name:    schematic
************************************************************************

.SUBCKT mux8_1p_fL A0 A1 A2 A3 A4 A5 A6 A7 COM IN0 IN1 IN2 IN3 IN4 IN5 IN6 IN7 
+ VDDA
*.PININFO A0:B A1:B A2:B A3:B A4:B A5:B A6:B A7:B COM:B IN0:B IN1:B IN2:B 
*.PININFO IN3:B IN4:B IN5:B IN6:B IN7:B VDDA:B
MM6 COM A5 IN5 VDDA pmos1v2hvt W=10u L=1u m=1 nf=1
MM5 COM A4 IN4 VDDA pmos1v2hvt W=10u L=1u m=1 nf=1
MM4 COM A7 IN7 VDDA pmos1v2hvt W=10u L=1u m=1 nf=1
MM3 COM A6 IN6 VDDA pmos1v2hvt W=10u L=1u m=1 nf=1
MM2 COM A1 IN1 VDDA pmos1v2hvt W=10u L=1u m=1 nf=1
MM1 COM A0 IN0 VDDA pmos1v2hvt W=10u L=1u m=1 nf=1
MM0 COM A3 IN3 VDDA pmos1v2hvt W=10u L=1u m=1 nf=1
MM7 COM A2 IN2 VDDA pmos1v2hvt W=10u L=1u m=1 nf=1
.ENDS

